US08003662B2
Step D: Preparation of 6-bromo-1-phenyl-2,3-dihydroimidazo[1,2-a]pyrimidin-5(1H)-one:
To a solution of 5-bromo-2-(phenylamino)pyrimidin-4(3H)-one (0.082 g, 0.308 mmol) in DMF (8 mL) was added K2CO3 (0.043 g, 0.308 mmol) and 1,2-dibromoethane (0.029 ml, 0.339 mmol). The reaction was stirred at 60° C. overnight, cooled to room temperature and then partitioned between EtOAc and saturated NaCl. The layers were separated and the aqueous layer was re-extracted with EtOAc (1×). The combined organic layers were dried over Na2SO4, filtered and concentrated. The crude product was purified by trituration with Et2O/CH2Cl2. The resulting solid was washed with Et2O, and the filtrate discarded. The solid was then dissolved with CH2Cl2/MeOH, concentrated and dried under vacuum. The product was obtained (75 mg; 83%) as a white solid. 1H-NMR (400 MHz, DMSO-d6) δ 8.05 (s, 1H), 7.75 (m, 2H), 7.42 (m, 2H), 7.15 (m, 1H), 4.18 (m, 4H). LRMS (ESI pos) m/e 292, 294 (M+, Br pattern).

reactant | 5-bromo-2-(phenylamino)pyrimidin-4(3H)-one | 0.308 mmol, 0.082 g | BrC=1C(NC(=NC1)NC1=CC=CC=C1)=O | C10H8BrN3O
reactant | K2CO3 | 0.308 mmol, 0.043 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,2-dibromoethane | 0.339 mmol, 0.029 ml | BrCCBr | C2H4Br2
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 6-bromo-1-phenyl-2,3-dihydroimidazo[1,2-a]pyrimidin-5(1H)-one | BrC1=CN=C2N(C1=O)CCN2C2=CC=CC=C2 | C12H10BrN3O
